Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Isopropyl alcohol ingestion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx significant for major depressive disorder & PTSD, 
alcohol abuse without any history of withdrawal seizures, who 
presented with ingestion of hand sanitizer. The patient lives in 
a group home for patients with substance abuse, and reported 
that he drank 2 bottles of hand sanitizer earlier on the day of 
admission. He denied any other alcohol or drug use and denies 
IVDU.

In the ED, initial vital signs were: T 97.7, HR 75, BP 125/81, 
RR 18, 95% RA. Exam in the ED was unremarkable. Labs were 
notable for Na 146, mildly elevated; lactate 3.0; EtOH 148; osms 
339; normal osmolar gap at 7, and normal anion gap of 16. Tox 
screen was positive for ethanol (___) and benzodiazepines. EKG 
showed NSR with QRS of 113 that decreased to 96 on repeat. 
Non-contract head CT showed no evidence of acute intracranial 
hemorrhage or mass, but evidence of acute/chronic sinus disease. 
Patient was given 2L of NS, IV Thiamine 300mg, followed by 200mg 
PO, Diazepam 20 mg IV, then 10mg IV x2, Haloperidol 2.5 mg IV, 
Ibuprofen 800 mg PO ONCE, Folic Acid 1 mg PO ONCE. Vitals on 
transfer were T 97.6, P ___, BP 131/76, RR 22, 97% RA. 

Upon arrival to the floor, the patient reports that he's feeling 
better. He explains that he relapsed at his group home and drank 
2 bottles of hand sanitizer. He shows no signs of regret. He 
reports some fevers and chills initially, followed by diarrhea, 
and visual and auditory hallucinations. Upon further 
questioning, patient reports that he has had some significant 
family troubles in the past few years and has been having 
trouble coping with everything that has happened in his life. He 
wants to get into a dual diagnosis program such as the on at 
___ so that he can be properly treated.
 
Review of Systems:  
per HPI  

 
Past Medical History:
Alcohol abuse
Depression
PTSD
 
Social History:
___
Family History:
Depression in aunts and uncles.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 98.1, 143/88, 108, 20, 99%RA 
GENERAL: AOx3, NAD
HEENT: NCAT. PERRL.  Oropharynx clear.
NECK: No cervical LAD.
CARDIAC: RRR, no murmurs/rubs/gallops.
LUNGS: CTAB.  No wheezes, rhonchi or rales. 
BACK: No CVA tenderness. 
ABDOMEN: Obese, mildly distended, non-tender to deep palpation 
in all four quadrants. Normal bowels sounds.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses 2+ 
bilaterally.
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal 
sensation.

DISCHARGE PHYSICAL EXAM:
========================
Vitals:  99.1, 118-147/63-80, 85-105, ___, 94-97RA 
GENERAL: AOx3, NAD, sad and anxious 
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Deaf in L ear. Moist mucous membranes, poor 
dentition.  Oropharynx is clear. 
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Minimal left basilar crackles.
ABDOMEN:  Normal bowels sounds, distended and tender to deep 
palpation in lower right and lower left quadrants. Negative 
peritoneal signs or ___ sign. Tympanic to percussion. Liver 
and spleen margins not appreciated.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  ___ strength throughout.  Normal 
sensation.  Mild ataxia and dysmetria (finger to nose test), 
dysdiadochokinesia (pronation/supination test)—consistent with 
yesterday.  Gait is wide based. Cannot perform heel-toe walking.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:15AM   PLT COUNT-100*
___ 12:15AM   NEUTS-41.1 ___ MONOS-10.9 EOS-4.0 
BASOS-1.3* IM ___ AbsNeut-1.97 AbsLymp-2.03 AbsMono-0.52 
AbsEos-0.19 AbsBaso-0.06
___ 12:15AM   WBC-4.8 RBC-4.17* HGB-12.2* HCT-36.2* MCV-87 
MCH-29.3 MCHC-33.7 RDW-15.3 RDWSD-47.9*
___ 12:15AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-POS* barbitrt-NEG tricyclic-NEG
___ 12:15AM   OSMOLAL-339*
___ 12:15AM   ALBUMIN-3.6 CALCIUM-7.8* PHOSPHATE-3.9 
MAGNESIUM-1.8
___ 12:15AM   LIPASE-19
___ 12:15AM   ALT(SGPT)-24 AST(SGOT)-44* ALK PHOS-93 TOT 
BILI-0.5
___ 12:15AM   estGFR-Using this
___ 12:15AM   GLUCOSE-90 UREA N-9 CREAT-0.6 SODIUM-146* 
POTASSIUM-3.7 CHLORIDE-108 TOTAL CO2-26 ANION GAP-16
___ 12:31AM   LACTATE-3.0*
___ 12:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 12:40AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:40AM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:40AM URINE  HOURS-RANDOM
___ 10:45AM   GLUCOSE-93 UREA N-8 CREAT-0.8 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-20* ANION GAP-19
___ 01:28PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-POS* barbitrt-NEG tricyclic-NEG
___ 01:28PM   ACETONE-SMALL OSMOLAL-320*
___ 01:28PM   GLUCOSE-151* UREA N-7 CREAT-0.8 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-24 ANION GAP-17

DISCHARGE/PERTINENT LABS:
=========================
___ 08:28AM BLOOD WBC-8.3 RBC-4.37* Hgb-12.8* Hct-38.3* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-15.7* RDWSD-49.3* Plt ___
___ 08:28AM BLOOD Glucose-109* UreaN-8 Creat-1.0 Na-136 
K-3.3 Cl-98 HCO3-24 AnGap-17
___ 08:28AM BLOOD Calcium-8.6 Phos-3.8 Mg-1.7
___ 08:31AM BLOOD VitB___-___ Folate-9.3
___ 09:45AM BLOOD HIV Ab-Negative
___ 04:02PM BLOOD Lactate-1.7

MICROBIOLOGY:
=============
___ 12:40 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 2:35 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative).

IMAGING:
========
HEAD CT W/O CONTRAST (___):
1.  Study is mildly degraded by motion. 
2.  Within limits of study, no evidence of acute intracranial 
hemorrhage. 
3. Within limits of this motion degraded, noncontrast 
examination, no definite evidence of intracranial mass. 
4. Interval progression of paranasal sinus disease concerning 
for acute and chronic sinusitis, as described.

CXR (___):
1. Left mid lung pneumonia. 
2. Right lateral pleural thickening versus a trace right pleural 
effusion. 
 
Brief Hospital Course:
___ with PMHx significant for major depressive disorder, PTSD, 
and alcohol abuse, presenting for ingestion of hand sanitizer at 
his group home.

# Isopropyl alcohol ingestion/Alcohol abuse/Suicidal Ideations: 
Patient reports drinking 3x20oz hand sanitizer (isopropyl 
alcohol) over the course of 3 days PTA. On admission, he was 
hemodynamically stable. Patient was difficult to arouse with 
significantly unintelligible, slurred speech, but was endorsing 
suicidal ideations. Patient had no electrolyte abnormalities on 
admission, and anion and osmolar gap were within normal limits 
and remained so throughout his stay. EKG remained unchanged. 
Patient recovered from his intoxication and was admitted under 
___ with a 1:1 sitter. There was some concern for 
continued altered mental status, and Wernicke's encephalopathy, 
so the patient was started on high-dose thiamine 500mg IV TID, 
and ultimately there was lesser suspicion for ___'s 
encephalopathy in discussion with psychiatry such that he was 
felt to be safe for transition to oral thiamine at discharge. 
His mental status improved shortly after being transferred to 
the floor and subsequently returned to normal. He remained 
severely depressed. He was placed on a CIWA scale, but was not 
scoring. He was connected with social work, who met with him and 
provided him with resources to participate in the PAATHS program 
at ___ (___), which is a walking clinic that 
can provide him with resources for treatment of alcohol abuse 
and help him find a shelter. He was provided with a cab voucher 
to go to ___ following discharge. Social work also gave him the 
contact information of the intake coordinator at "___ for 
Promise", a residential treatment program, who is awaiting his 
call for an informal assessment over the phone and possible 
placement. At discharge, the patient was not endorsing SI or HI, 
and was cleared by psychiatry and toxicology. He reports wanting 
to join a treatment program to help him with his recovery.

# Pneumonia:
Patient complained of a new cough on ___, with exam notable 
for minimal left basilar crackles. Patient afebrile, with normal 
oxygen saturation on room air. CXR was done and showed evidence 
of a left lower lobe infiltrate highly suggestive of pneumonia. 
Patient was started on a 7-day course of levofloxacin for 
treatment of pneumonia (7 days chosen versus 5 days, given 
possible sinusitis, see below). QTc was stable at discharge.

# Acute on Chronic Sinusitis:
On admission, head CT showed evidence of interval progression of 
paranasal sinus disease concerning for acute and chronic 
sinusitis. Patient also reports several episodes of epistaxis on 
___ and ___, likely in the setting of thrombocytopenia. 
Reports no recent trauma or rhinotillexis. Given concomitant 
pneumonia, plan was to extend course from 5 days to 7 days to 
cover possible bacterial sinusitis.

# Thrombocytopenia: 
Patient found to have a platelet count of ~ 100k. Possibly 
related to marrow suppression due to alcohol abuse. No evidence 
of significant liver disease on recent CT abdomen/pelvis to 
explain thrombocytopenia. Basic work-up, including HCV Ab and 
HIV Ab, unrevealing. Platelet count remained stable. Plan to 
follow-up with repeat CBC as outpatient and evaluation by PCP.

# Depression: 
Patient with a known history of anxiety and MDD currently on 
treatment with citalopram and trazodone. Medications initially 
held at the time of admission given toxic ingestion, but 
subsequently restarted following clearance from toxicology and 
psychiatry.

# Pain management: 
Patient previously evaluated in the ED for left-sided rib 
fracture and was reporting severe pain. Pain was adequately 
managed with standing acetaminophen (<2g/day) and lidocaine 
patch.

# Elevated Creatinine: 
Patient had an elevation in creatinine to 1.2, up form his 
baseline of 0.6-0.9. FENa of 2.7%, however, no evidence 
supporting ATN, AIN, or an underlying glomerulonephritis. Plan 
is for outpatient follow-up with PCP.

# Concern for STIs: 
Patient is not currently sexually active, but requested STI 
testing. He does not report any genital rashes, ulcers, or 
discharge. HIV and HCV serologies done and were negative. 

TRANSITIONAL ISSUES:
====================
# Patient was found to have a left lower lobe pneumonia and was 
started on a course of levofloxacin 750 mg for 7 days (last day 
___
# Patient was found to have a creatinine of 1.1-1.2 up from his 
baseline of 0.6-0.9. Requires follow-up within ___ weeks.
# Patient was found to have evidence of maxillary sinusitis 
(acute on chronic). This will be adequately treated with a 7-day 
course of Levofloxacin.
#Patient needs repeat of his labs within a week to monitor the 
Creatinine and platelets.

# Emergency Contact: ___ (___) 
# Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 30 mg PO DAILY 
2. TraZODone 150 mg PO QHS 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*2 
2.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*7 
Tablet Refills:*0
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*2 
4.  Thiamine 500 mg IV Q8H Duration: 3 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*60 Tablet Refills:*2 
5.  Citalopram 30 mg PO DAILY  
6.  TraZODone 150 mg PO QHS  
7.Outpatient Lab Work
Blood for: CBC/diff, CHEM10
Please fax to Dr. ___ at ___.

ICD10 Codes: D69.6, N17.9

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Isopropyl Alcohol Ingestion
Suicidal Ideation
Community Acquired Pneumonia

SECONDARY DIAGNOSES:
====================
Major Depressive Disorder
Anxiety
Traumatic epistaxis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you had ingested 
hand sanitizer and you were having suicidal ideations. You were 
monitored and given fluids and supportive care to prevent any 
damage that might be caused by this toxic product. You did well 
throughout your stay and did not require any intensive care. The 
psychiatry team evaluated you and did not recommend admission to 
an in-patient psychiatry unit.

The social worker met with you and provided you with resources 
to connect with the PATHS program at ___ 
(___), which is a walking clinic that will provide you with 
resources for treatment of alcohol abuse and help you find a 
shelter. You were provided with a cab voucher to go to BMC 
following discharge. We also gave you the contact information of 
the intake coordinator at "Place for Promise", please call them 
for an informal assessment over the phone.

You were also noted to have a mild pneumonia for which you were 
started on antibiotics. You will have to continue taking the 
antibiotic called levofloxacin for a total duration of 7 days 
(last ___.

We wish you the best of luck with your recovery.

___ Care Team
 
Followup Instructions:
___